US06518264B2
The operation is carried out under the conditions described in Example 124 starting with 150 mg of activated 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid on TFP resin (165 μM) and 0.0141 cm3 of methylhydrazine. 42 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid N′methylhydrazide are thus obtained in the form of a pale yellow foam [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): 2.96 (s, 3H), 3.18 (broad s, 3H), 3.83 (mt, 2H), 4.22 (mt, 2H), 4.80 (broad s, 2H), from 7.35 to 7.65 (mt, 12H)].

reactant | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid | 150 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C25H21Cl2NO4S
reactant | methylhydrazine | 0.0141 cm3 | CNN | CH6N2
product | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid N′methylhydrazide | 42 mg | CNNC(C1=CC(=CC=C1)CS(=O)(=O)C=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C26H25Cl2N3O3S
